US04954630
(a) 9-Hydroxy-5-benzo[a]phenoxazone-8-carboxylic acid 12-oxide
2.84 g. 1,3-dihydroxy-4-nitrosonaphthalene, 2.31 g. 2,6-dihydroxybenzoic acid, 1.29 g, pyrolusite and 1.6 ml. concentrated sulphuric acid are reacted analogously to Example 1(a). Yield 2.8 g.

reactant | 1,3-dihydroxy-4-nitrosonaphthalene | OC1=CC(=C(C2=CC=CC=C12)N=O)O | C10H7NO3
reactant | 2,6-dihydroxybenzoic acid | OC1=C(C(=O)O)C(=CC=C1)O | C7H6O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 9-Hydroxy-5-benzo[a]phenoxazone-8-carboxylic acid 12-oxide | OC1=C(C=2OC3=CC(C4=C(C3=[N+](C2C=C1)[O-])C=CC=C4)=O)C(=O)O | C17H9NO6
